US05312616
3,3,4,4,5,5,6,6,7,7,8,8-Dodecafluoro-2-octyl 2,3,5-triiodobenzoate
Using the same procedure as for 2-octyl-2,3,5-triiodobenzoate, 2,3,5-triiodobenzoyl chloride was prepared from 2.00 g of 2,3,5-triiodobenzoic acid and 2.54 g of oxalyl chloride in dry dichloromethane. The 2,3,5-triiodobenzoyl chloride was dissolved in 8 ml of dry dichloromethane. The solution was cooled to 0° C. and 0.810 g (8.00 mmol) of triethylamine was added. The brown solution was placed under nitrogen before 1.52 g (4.40 mmol) of 3,3,4,4,5,5,6,6,7,7,8,8-dodecafluoro-2-octanol was added dropwise. Dimethylaminopyridine (0.049 g, 0.400 mmol) was added and the resulting solution was stirred at room temperature for 18 hrs. The brown solution was then partitioned between 100 ml of dichloromethane and 50 ml of 1M HCl. The dichloromethane layer was washed with saturated NaHCO3 solution (50 ml) and brine (25 ml). The solution was dried over Na2SO4 and concentrated in vacuo to yield 3.11 g of a brown oil. The oil was purified by flash chromatography using 125 g of silica gel and 4% ethyl acetate/hexane as the eluent. The first 475 ml to elute contained nothing, while the pure product eluted with the next 200 ml. Concentration in vacuo afforded 2.36 g (71%) of the product as a colorless oil which slowly solidified to a white, waxy solid. Mp. 32°-35° C.

reactant | 2-octyl-2,3,5-triiodobenzoate | C(CCCCCCC)C1(C(C(=O)[O-])C=C(C=C1I)I)I
reactant | 2,3,5-triiodobenzoyl chloride | IC1=C(C(=O)Cl)C=C(C=C1I)I | C7H2ClI3O
reactant | 2,3,5-triiodobenzoic acid | 2.00 g | IC1=C(C(=O)O)C=C(C=C1I)I | C7H3I3O2
reactant | oxalyl chloride | 2.54 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 8.00 mmol, 0.810 g | C(C)N(CC)CC | C6H15N
reactant | 3,3,4,4,5,5,6,6,7,7,8,8-dodecafluoro-2-octanol | 4.40 mmol, 1.52 g | FC(C(C)O)(C(C(C(C(C(F)F)(F)F)(F)F)(F)F)(F)F)F | C8H6F12O
reactant | Dimethylaminopyridine | 0.400 mmol, 0.049 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 3,3,4,4,5,5,6,6,7,7,8,8-Dodecafluoro-2-octyl 2,3,5-triiodobenzoate | 3.11 g | IC1=C(C(=O)OC(C)C(C(C(C(C(C(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C=C(C=C1I)I | C15H7F12I3O2
